US03985804
Preparation of 2'-ethoxy-2-methylbenzanilide
A 19.9 g (0.1 mol) portion of o-methylbenzoyl bromide was added dropwise with cooling to a mixture of 13.7 g (0.1 mol) of o-ethoxyaniline and 8.4 g (0.1 mol) of sodium bicarbonate in 200 ml of acetone with stirring. After addition of the o-methylbenzoyl bromide, the reaction mixture was warmed to 40° C and the mixture was refluxed and stirred for another 40 hours. After filtering, the ether was distilled from the reaction mixture and the residual material was re-dissolved in ether and washed with water. The ether layer was dried over anhydrous sodium sulfate, the ether was removed and the product was distilled to obtain 24.1 g (94.5%) of a clear pink liquid having a boiling point of 148° C/0.04 mm Hg and nD20 of 1.5929.

reactant | o-methylbenzoyl bromide | CC1=C(C(=O)Br)C=CC=C1 | C8H7BrO
reactant | o-ethoxyaniline | 0.1 mol, 13.7 g | C(C)OC1=C(N)C=CC=C1 | C8H11NO
reactant | sodium bicarbonate | 0.1 mol, 8.4 g | C([O-])(O)=O.[Na+]
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 2'-ethoxy-2-methylbenzanilide | 24.1 g, 94.5% | C(C)OC1=C(NC(C2=C(C=CC=C2)C)=O)C=CC=C1 | C16H17NO2
